2141-02-12 07:23:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: s/p stroke; reason for ICU transfer hypotension,
   hypoxia, metabolic acidosis
   24 Hour Events:
 ULTRASOUND - At [**2141-2-11**] 05:53 PM
   Lower extremities to r/o DVT
 UNPLANNED LINE/CATHETER REMOVAL (PATIENT INITIATED) - At [**2141-2-12**]
   06:00 AM
   pt founf with both IV's pulled out
   - O2 requirement weaned following 20 mg IV lasix
   - head CT per neuro recs to check for stroke evolution & consider for
   anticoagulation
   - became tachypneic post CT scan then afib with RVR, gave lasix 20 mg
   IV again and metoprolol 5 mg IV
   - renal u/s & urine lytes ordered for [**Doctor First Name **]
   - started on cipro for a UTI
   - pulled out both IVs this am
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2141-2-11**] 10:00 PM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2141-2-12**] 12:00 AM
   Metoprolol - [**2141-2-12**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2141-2-12**] 07:22 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 35.6
C (96.1
   Tcurrent: 35.6
C (96.1
   HR: 87 (67 - 108) bpm
   BP: 148/73(93) {108/42(60) - 155/90(96)} mmHg
   RR: 29 (21 - 29) insp/min
   SpO2: 90%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 65 Inch
             Total In:
                                                                  2,625 mL
                                                                     30 mL
   PO:
             TF:
   IVF:
                                                                    325 mL
                                                                     30 mL
   Blood products:
   Total out:
                                                                  1,165 mL
                                                                    380 mL
   Urine:
                                                                    620 mL
                                                                    380 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,460 mL
                                                                   -350 mL
   Respiratory support
   O2 Delivery Device: Face tent  60%
   SpO2: 90%
   ABG: ///16/
   Physical Examination
   General: Eyes, open, but not responding to simple questions
   HEENT: Sclera anicteric, dry MM, oropharynx clear
   Neck: supple, no LAD
   Lungs: expiratory wheezes, scattered crackles and rhonchi
   CV: irregular rate and rhythm, 4/6 SEM LUSB
   Abdomen:  soft, non-tender, non-distended, bowel sounds present, no
   rebound tenderness or guarding, no organomegaly
   Ext: Warm, well perfused, no cyanosis or edema
   Labs / Radiology
   345 K/uL
   10.0 g/dL
   113 mg/dL
   2.3 mg/dL
   16 mEq/L
   3.9 mEq/L
   60 mg/dL
   115 mEq/L
   147 mEq/L
   29.2 %
   19.9 K/uL
        [image002.jpg]
                             [**2141-2-10**]  02:24 AM
                             [**2141-2-11**]  07:30 AM
                             [**2141-2-11**]  03:07 PM
                             [**2141-2-11**]  10:12 PM
                             [**2141-2-12**]  03:36 AM
   WBC
   11.8
   20.1
   19.9
   Hct
   28.6
   28.0
   29.2
   Plt
   266
   340
   345
   Cr
   1.8
   2.3
   2.3
   TropT
   0.04
   0.08
   0.08
   0.10
   Glucose
   145
   140
   113
   Other labs: PT / PTT / INR:16.9/30.8/1.5, Ca++:8.8 mg/dL, Mg++:2.5
   mg/dL, PO4:5.6 mg/dL
   Urine Lytes: urea 669, creatinine 62, Na 52, Osm 425; FENa 1.3%, FEUrea
   41%
   UA with many bacteria & nitrite positive; urine culture pending
   CXR
 from this am, official read pending, but appears similar to
   yesterday morning with evidence of volume overload
   [**2141-2-11**] Head CT: 1. Interval increase in parenchymal hemorrhage within
   the left MCA infarct territory, now spanning a region of 5.2 x 3.3 cm.
   Associated increase in edema with mild increase in subfalcine rightward
   herniation, now measuring 5 mm.   2. New hyperdense focus in the right
   anterior frontal cortex could represent tiny site of hemorrhage,
   without mass effect or edema. Alternatively, this could be
   artifactual.  3. Stable right frontal infarct.
   Assessment and Plan
   This is a [**Age over 90 **] yo male with HTN, critical AS, recent pneumonia, and now
   recent stroke who was transferred to the ICU on [**2-11**] for tachypnea,
   afib, hypotension, and increasing O2 requirement.
   # Hypoxia: Likely multifactorial
 afib, volume overload from IVF in
   the setting of critical AS, and possibly aspiration post stroke as
   well.  PE also possible.  Event last night post-CT scan likely
   tachypnea from lying flat and pulmonary edema that then triggered RVR
   and exacerbated the hypoxia.  Improved after lasix and metoprolol.
   Hypoxia most likely in the setting of pulm edema due to AS+afib with
   rvr.
   - wean o2 as tolerated
   - sputum gram stain & culture
   - no CTA given renal function; stroke with hemorrahage likely
   contraindication for anticoagulation: will discuss with neuro
   - consider lasix drip for slow diuresis in the setting of volume
   overload
   - consider metoprolol 2.5 mg IV for RVR
   .
   # Hypotension / RVR: in the setting of Afib with rvr, also perhaps
   leading to hypoxia (as above).  Likely not due to vasodilatatory septic
   shock as transient with long periods of normotension with lower heart
   rate, though patient could have ongoing infections as well given
   positive UA and high WBC count.
   - f/u lactate
   - f/u renal out put
   - consider metoprolol 2.5 mg IV (or diltiazem or verapamil) if afib
   with rvr, this may bring up BP by lowering HR and improving filling
   pressure
   .
   # Metabolic acidosis: appears to be chronic although we [**Male First Name (un) 344**]
t have
   older data. Metabolic acidosis due to renal insufficiency, compensated
   by tachypnea, current worsening metabolic acidosis partially due to
   hypoxia/hypotension and mainly due to hyperchloremia in the setting of
   fluid resuscitation.  Continue to monitor.
   .
   # Lactic acidosis: in the setting of transient hypotension and
   hypoxemia expected. Doubt to be due to sepsis or persistent end organ
   ischemia.
   - f/u lactate
   .
   # Recent stroke: Repeat head CT evening of [**2-11**] shows continued
   evolution of stroke.  Neuro following and their recommendations and
   assessment is appreciated.  Patient likely not a candidate for
   anticoagulation, but would appreciate input from neuro on this
   question.
   .
   # FEN: Limit IVF, replete electrolytes, needs NG tube for nutrition and
   free water boluses due to hypernatremia
   .
   # Prophylaxis: Subcutaneous heparin
   .
   # Access: peripheral IV x 1 (patient pulled out 2 PIV earlier this am)
   .
   # Code: Presumed full.  Need to discuss prognosis and goals of care
   with family as patient has a very low probability of returning to his
   former baseline and will likely continue to have respiratory distress
   on this admission.
   .
   # Communication: son
   .
   # Disposition: ICU level care
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2141-02-13 08:13:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Diuresed briskly with Lasix gtt
   - Pt satting 100% on FIO2 60% via shovel mask
   - Pt nodded yes when asked "Do you have difficulty breathing?" and "Do
   you feel tired?"
   - Family meeting with Dr. [**First Name (STitle) **], then phone conversations with Dr.
   [**First Name (STitle) **].
   - Family visited: made pt DNR/DNI, no escalation of care. Use morphine
   for comfort but NOT CMO. They would like to hear about prognosis from
   neurological perspective from the previous neuroICU team or neuro
   consultants.
   - Hypernatremia continues but not worse (147)... holding off on NG tube
   and free water boluses given the overall picture
   - Wrote for Zydis for agitation, has morphine for air hunger
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2141-2-11**] 10:00 PM
   Infusions:
   Furosemide (Lasix) - 1 mg/hour
   Other ICU medications:
   Metoprolol - [**2141-2-12**] 02:12 PM
   Morphine Sulfate - [**2141-2-13**] 06:25 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2141-2-13**] 08:13 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.1
C (97
   Tcurrent: 36.1
C (97
   HR: 111 (73 - 117) bpm
   BP: 146/64(81) {96/42(57) - 163/140(146)} mmHg
   RR: 19 (13 - 32) insp/min
   SpO2: 100%
   Heart rhythm: SA (Sinus Arrhythmia)
   Height: 65 Inch
             Total In:
                                                                     49 mL
                                                                      8 mL
   PO:
             TF:
   IVF:
                                                                     49 mL
                                                                      8 mL
   Blood products:
   Total out:
                                                                  1,850 mL
                                                                    570 mL
   Urine:
                                                                  1,850 mL
                                                                    570 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,801 mL
                                                                   -562 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 100%
   ABG: ///16/
   Physical Examination
   General: Eyes, open, but not responding to simple questions
   HEENT: Sclera anicteric, dry MM, oropharynx clear
   Neck: supple, no LAD
   Lungs: expiratory wheezes, scattered crackles and rhonchi
   CV: irregular rate and rhythm, 4/6 SEM LUSB
   Abdomen:  soft, non-tender, non-distended, bowel sounds present, no
   rebound tenderness or guarding, no organomegaly
   Ext: Warm, well perfused, no cyanosis or edema
   Labs / Radiology
   370 K/uL
   11.2 g/dL
   132 mg/dL
   2.3 mg/dL
   16 mEq/L
   3.5 mEq/L
   63 mg/dL
   115 mEq/L
   147 mEq/L
   33.2 %
   20.5 K/uL
        [image002.jpg]
                             [**2141-2-10**]  02:24 AM
                             [**2141-2-11**]  07:30 AM
                             [**2141-2-11**]  03:07 PM
                             [**2141-2-11**]  10:12 PM
                             [**2141-2-12**]  03:36 AM
                             [**2141-2-12**]  03:17 PM
                             [**2141-2-13**]  03:14 AM
   WBC
   11.8
   20.1
   19.9
   20.5
   Hct
   28.6
   28.0
   29.2
   33.2
   Plt
   266
   340
   345
   370
   Cr
   1.8
   2.3
   2.3
   2.3
   2.3
   TropT
   0.04
   0.08
   0.08
   0.10
   Glucose
   145
   140
   113
   121
   132
   Other labs: PT / PTT / INR:16.9/30.8/1.5, CK / CKMB /
   Troponin-T:289/6/0.10, Differential-Neuts:89.6 %, Lymph:4.7 %, Mono:5.5
   %, Eos:0.1 %, Lactic Acid:2.3 mmol/L, Ca++:9.1 mg/dL, Mg++:2.5 mg/dL,
   PO4:5.7 mg/dL
   Assessment and Plan
   This is a [**Age over 90 **] yo male with HTN, critical AS, recent pneumonia, and now
   recent stroke who was transferred to the ICU on [**2-11**] for tachypnea,
   afib, hypotension, and increasing O2 requirement.
   # Hypoxia: Likely multifactorial
 afib, volume overload from IVF in
   the setting of critical AS, and possibly aspiration post stroke as
   well.  PE also possible.  Event last night post-CT scan likely
   tachypnea from lying flat and pulmonary edema that then triggered RVR
   and exacerbated the hypoxia.  Improved after lasix and metoprolol.
   Hypoxia most likely in the setting of pulm edema due to AS+afib with
   rvr.
   - wean o2 as tolerated
   - sputum gram stain & culture
 first sample was contaminant
   - CXR c/w aspiration, low risk Psuedomonas, start  Vanc/Unasyn (Day 1
   -[**2-13**])
   - no CTA given renal function; stroke with hemorrhage likely
   contraindication for anticoagulation: will discuss with neuro
   - change lasix drip to lasix 10mg q12hr
   - metoprolol 2.5 mg IV for RVR
 change to metoprolol 5mg q6hr
   .
   # Hypotension / RVR: in the setting of Afib with rvr, also perhaps
   leading to hypoxia (as above).  Likely not due to vasodilatatory septic
   shock as transient with long periods of normotension with lower heart
   rate, though patient could have ongoing infections as well given
   positive UA and high WBC count.
   - f/u lactate
   - f/u renal out put
   - consider metoprolol 2.5 mg IV (or diltiazem or verapamil) if afib
   with rvr, this may bring up BP by lowering HR and improving filling
   pressure
   .
   # Metabolic acidosis: appears to be chronic although we [**Male First Name (un) 344**]
t have
   older data. Metabolic acidosis due to renal insufficiency, compensated
   by tachypnea, current worsening metabolic acidosis partially due to
   hypoxia/hypotension and mainly due to hyperchloremia in the setting of
   fluid resuscitation.  Continue to monitor.
   .
   # Lactic acidosis: in the setting of transient hypotension and
   hypoxemia expected. Doubt to be due to sepsis or persistent end organ
   ischemia.
   - f/u lactate
 stable in [**1-10**] range
   .
   # Recent stroke: Repeat head CT evening of [**2-11**] shows continued
   evolution of stroke.  Neuro following and their recommendations and
   assessment is appreciated.  Patient likely not a candidate for
   anticoagulation, but would appreciate input from neuro on this
   question.
   - ASA 300mg PR daily
   .
   # FEN: Limit IVF, replete electrolytes, needs NG tube for nutrition,
   free water boluses (hyperNa+ )and aspiration risk, however, will
   discuss with family the preference as pt pulled out NGT already.. If
   not, then start IVF (D5
 NS) at slow basal rate
   .
   # Prophylaxis: Subcutaneous heparin
   .
   # Access: peripheral IV x 1 (patient pulled out 2 PIV earlier this am)
   .
   # Code: Presumed full.  Need to discuss prognosis and goals of care
   with family as patient has a very low probability of returning to his
   former baseline and will likely continue to have respiratory distress
   on this admission.  Will require Neuro input.
   .
   # Communication: son
   .
   # Disposition: ICU level care
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2141-2-12**] 11:13 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2141-02-14 06:56:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Talked with son: [**Name (NI) 821**] [**Name (NI) 2941**] (c) [**Telephone/Fax (1) 4679**]
   - Neuro discussed prognosis with family
   - Family would like NGT. Placed. Started free H2O flushes and TFs.
   - Needs to wear mitts, pulled out NGT in past
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2141-2-11**] 10:00 PM
   Vancomycin - [**2141-2-13**] 01:00 PM
   Ampicillin/Sulbactam (Unasyn) - [**2141-2-14**] 02:00 AM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2141-2-13**] 10:00 AM
   Furosemide (Lasix) - [**2141-2-13**] 08:15 PM
   Metoprolol - [**2141-2-14**] 06:10 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2141-2-14**] 06:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 35.8
C (96.5
   Tcurrent: 35.7
C (96.3
   HR: 76 (76 - 111) bpm
   BP: 122/48(67) {107/45(63) - 146/99(99)} mmHg
   RR: 20 (12 - 25) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
             Total In:
                                                                    977 mL
                                                                    495 mL
   PO:
             TF:
                                                                     10 mL
                                                                    111 mL
   IVF:
                                                                    467 mL
                                                                    135 mL
   Blood products:
   Total out:
                                                                  1,468 mL
                                                                    290 mL
   Urine:
                                                                  1,468 mL
                                                                    290 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -491 mL
                                                                    205 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///18/
   Physical Examination
   General: NAD. Opens eyes to name, answers
 to
Are you feeling
   OK?
 Does not answer any further questions
   HEENT: Sclera anicteric, dry MM, oropharynx clear
   Neck: supple, no LAD
   Lungs: expiratory wheezes, breath sounds diminished at bilateral bases
   CV: irregular rate and rhythm, 3/6 SEM LUSB
   Abdomen:  soft, non-tender, non-distended, bowel sounds present, no
   rebound tenderness or guarding, no organomegaly
   Ext: Warm, well perfused, no cyanosis or edema
   Labs / Radiology
   371 K/uL
   12.3 g/dL
   121 mg/dL
   2.2 mg/dL
   18 mEq/L
   4.2 mEq/L
   63 mg/dL
   118 mEq/L
   151 mEq/L
   37.0 %
   17.7 K/uL
        [image002.jpg]
                             [**2141-2-10**]  02:24 AM
                             [**2141-2-11**]  07:30 AM
                             [**2141-2-11**]  03:07 PM
                             [**2141-2-11**]  10:12 PM
                             [**2141-2-12**]  03:36 AM
                             [**2141-2-12**]  03:17 PM
                             [**2141-2-13**]  03:14 AM
                             [**2141-2-14**]  03:20 AM
   WBC
   11.8
   20.1
   19.9
   20.5
   17.7
   Hct
   28.6
   28.0
   29.2
   33.2
   37.0
   Plt
   266
   340
   345
   370
   371
   Cr
   1.8
   2.3
   2.3
   2.3
   2.3
   2.2
   TropT
   0.04
   0.08
   0.08
   0.10
   Glucose
   145
   140
   113
   121
   132
   121
   Other labs: PT / PTT / INR:17.0/30.9/1.5, CK / CKMB /
   Troponin-T:289/6/0.10, ALT / AST:22/19, Alk Phos / T Bili:125/0.7,
   Differential-Neuts:86.0 %, Band:1.0 %, Lymph:6.0 %, Mono:7.0 %, Eos:0.0
   %, Lactic Acid:2.3 mmol/L, Albumin:3.1 g/dL, LDH:314 IU/L, Ca++:9.1
   mg/dL, Mg++:2.5 mg/dL, PO4:5.9 mg/dL
   Microbiology data:
   MRSA neg x 1, another sample pending
   UCx: no growth (final)
   Sputum Cx: oral flora
   BCx [**2-11**]: NGTD
   CXR [**2141-2-14**]
   (my read) moderate bilateral pleural effusions
   Assessment and Plan
   This is a [**Age over 90 **] yo male with HTN, critical AS, recent pneumonia, and now
   recent stroke who was transferred to the ICU on [**2-11**] for tachypnea,
   afib, hypotension, and increasing O2 requirement.
   # Hypoxia: Likely multifactorial
 afib, volume overload from IVF in
   the setting of critical AS, and possibly aspiration post stroke as
   well.  PE also possible (however no CTA given renal insufficiency).
   Acute decompensation again on [**2-11**] when pt had to lie flat for CT,
   triggering RVR and hypoxia.
   - Resp status much improved now with continued diuresis and rate
   control. Satting 100% on 2L O2 via NC.
   - CXR c/w aspiration, low risk Psuedomonas, started  Vanc/Unasyn (Day 1
   -[**2-13**]); given this may be just an aspiration pneumonitis and pt afebrile
   with decreasing WBC count, will d/c Vancomycin (MRSA neg x 1, will
   follow up on repeat MRSA swabs that pending). Continue unasyn while pt
   in hospital, then switch to augmentin as outpatient to complete a total
   abx course of [**6-16**] days. Want to avoid IV medications as placing a PICC
   may have greater risk than benefit as a portal of infection
   - resend sputum gram stain & culture (first sample showed oral flora)
   if pt able to produce sputum (unlikely)
   - hold lasix today as JVD not elevated and mucosa dry.
   .
   # Hypotension / afib with RVR, resolved: Was hypotensive initially in
   the setting of Afib with rvr, also perhaps leading to hypoxia (as
   above).  Likely not due to vasodilatatory septic shock as pt is now
   maintaining normal pressures once rate was controlled; however pt does
   have a high WBC count and e/o possible aspiration pneumonitis/PNA
   - Change Metoprolol to per NGT, 12.5 mg TID. Uptitrate as tolerated.
   - abx for ?aspiration pna/pneumonitis as above.
   .
   # Hypernatremia: Was previously stable at 147, now up to 151 in the
   setting of starting tube feeds despite also starting free water boluses
   per NGT.
   - Consider half strength TF
   - Free water deficit: 3L. Increase free water boluses to 300 cc Q4hrs.
   also gets 35 cc free water flushes Q1 hr with TF.
   .
   # Metabolic acidosis: appears to be chronic although we [**Male First Name (un) 344**]
t have
   older data. Metabolic acidosis due to renal insufficiency, compensated
   by tachypnea.  Continue to monitor.
   .
   # Recent stroke: Repeat head CT evening of [**2-11**] shows continued
   evolution of stroke.  Neuro following and their recommendations and
   assessment is appreciated. Neuro team spoke with patient
s family re:
   prognosis.
   - Change ASA from PR to PO today
   .
   # FEN: Limit IVF, replete electrolytes, has NGT now for nutrition.
   Discussed risk of chronic aspiration with family
 see below
   # Prophylaxis: Subcutaneous heparin, PPI, pneumoboots
   .
   # Access: peripheral IV x 1
   .
   # Code: DNR/DNI. Family aware of risk of chronic aspiration leading to
   respiratory distress and aspiration PNA/pneumonitis and the little
   likelihood that pt will return to his neurological baseline due to the
   stroke.  Will need further discussion with family. Right now family
   wants trach/PEG.
   .
   # Communication: son
   .
   # Disposition: call out to floor today
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2141-2-13**] 11:00 PM 30 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2141-2-12**] 11:13 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition: